US08791132B2
Methanesulfonic acid-4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyl ester (200 mg, 0.468 mmol) in 10 mL of 40% aqueous dimethyl amine was heated at 100° C. for 1 h. The progress of reaction was monitored by TLC. After consumption of starting material, the reaction mixture was dried and the crude product was purified by reverse phase chromatography to obtain 170 mg of [4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyl]-dimethyl-amine as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.57 b (s, 2H), 7.65 (dd, 2H), 7.23 (d, 1H), 7.21 (s, 1H), 6.99 (d, 1H), 4.62 (m, 1H), 4.48 (m, 1H), 4.42 (m, 1H), 4.26 (t, 1H), 3.81 (m, 1H), 3.55 (m, 2H), 3.35 (m, 1H), 3.1 (m, 1H), 3.0 (s, 3H), 2.9 (m, 2H), 2.83 (s, 6H), 2.4 (m, 1H), 2.38 (s, 3H), 2.29 (m, 1H). Separation by chiral HPLC provides enantiomers II-232a-b.

reactant | Methanesulfonic acid-4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyl ester | 0.468 mmol, 200 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CCOS(=O)(=O)C)C2=CC=NC=C2)CC1 | C23H29N3O3S
reactant | dimethyl amine | 10 mL | CNC | C2H7N
product | [4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyl]-dimethyl-amine | 170 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CCN(C)C)C2=CC=NC=C2)CC1 | C24H32N4
